US09447083B2
4-Bromo-2,6-dimethylphenol (350 mg, 1.74 mmol), 3-furanylboronic acid (269 mg, 2.26 mmol), Pd(dppf)Cl2 (71 mg, 0.087 mmol) and sodium carbonate (553 mg, 5.22 mmol) were dissolved in DME:water=4 mL:2 mL, followed by stirring in microwave at 120° C. for 20 minutes. After the completion of the reaction, the reaction mixture was filtered using Celite. The obtained filtrate was extracted with ethyl acetate, dried over magnesium sulfate, and purified by column chromatography (hexane:ethyl acetate=9:1) to obtain 4-(furan-3-yl)-2,6-dimethylphenol (225 mg, 50%).

reactant | 4-Bromo-2,6-dimethylphenol | 1.74 mmol, 350 mg | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | 3-furanylboronic acid | 2.26 mmol, 269 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 5.22 mmol, 553 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.087 mmol, 71 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(furan-3-yl)-2,6-dimethylphenol | 225 mg, 50% | O1C=C(C=C1)C1=CC(=C(C(=C1)C)O)C | C12H12O2
